US08629157B2
Step 3: Synthesis of (S)-1-(4-nitro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid
(S)-1-(4-nitro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester (800 mg, 2.6 mmol) is treated with trifluoroacetic acid (5 mL) at room temperature. After 1 h trifluoroacetic acid is evaporated in vacuo and the concentrate treated with ice/water. Precipitated light brownish solid is filtered washed with water and dried to give the title compound, ESI m/z 251 [M+H]+.

reactant | (S)-1-(4-nitro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 2.6 mmol, 800 mg | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O5
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-1-(4-nitro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)N1[C@@H](CCC1=O)C(=O)O | C11H10N2O5
